US07517532B2
2-(4-Fluorobenzyl)-8,9-dihydroxy-7-iodo-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,6-dione
To a suspension of 2-(4-fluorobenzyl)-8,9-dihydroxy-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,6-dione (5 g, 16.4 mmol) in methylene chloride (300 mL) at room temperature, a solution of iodine monochloride (2.8 g, 17.2 mmol) in methylene chloride (50 mL) was added. The suspension was stirred at room temperature overnight and concentrated under vacuum. The residue was dissolved in ethyl acetate and washed subsequently with an aqueous solution of sodium metabisulfite and brine. The organic extract was dried over anhydrous magnesium sulfate, filtered, concentrated. The residual solid was stirred in diethyl ether overnight, and collected by filtration.

reactant | 2-(4-fluorobenzyl)-8,9-dihydroxy-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,6-dione | 16.4 mmol, 5 g | FC1=CC=C(CN2C(C=3N(CC2)C(C=C(C3O)O)=O)=O)C=C1 | C15H13FN2O4
reactant | iodine monochloride | 17.2 mmol, 2.8 g | ICl | ClI
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-Fluorobenzyl)-8,9-dihydroxy-7-iodo-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,6-dione | FC1=CC=C(CN2C(C=3N(CC2)C(C(=C(C3O)O)I)=O)=O)C=C1 | C15H12FIN2O4
